US07241791B2
Step 2: 4-(1-allyl-7-methyl-1H-indazol-3-yl)phenol
Prepared according to Method D step C from 1-allyl-3-(4-methoxyphenyl)-7-methyl-1H-indazole (0.027 g, 0.23 mmol), boron tribromide (0.10 mL, 1.05 mmol) and 0.3 mL of cyclohexene to give the product (0.020 g) as a tan solid.

reactant | 1-allyl-3-(4-methoxyphenyl)-7-methyl-1H-indazole | 0.23 mmol, 0.027 g | C(C=C)N1N=C(C2=CC=CC(=C12)C)C1=CC=C(C=C1)OC | C18H18N2O
reactant | boron tribromide | 1.05 mmol, 0.10 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 0.3 mL | C1=CCCCC1 | C6H10
product | 4-(1-allyl-7-methyl-1H-indazol-3-yl)phenol | 0.020 g | C(C=C)N1N=C(C2=CC=CC(=C12)C)C1=CC=C(C=C1)O | C17H16N2O
